US07238808B2
2-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was prepared from 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.7) (82 mg, 0.25 mmol) and 2-chloro-thiazole-5-sulfonic acid(2-hydroxy-1,1-dimethyl-ethyl)-amide (68 mg, 0.25 mmol) (Example B.14) according to general procedure II. Obtained as a yellow solid (24 mg, 17%). MS (ISP) 562.0 [(M+H)+]; mp 243–245° C.

reactant | 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N3
reactant | 2-chloro-thiazole-5-sulfonic acid(2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.25 mmol, 68 mg | OCC(C)(C)NS(=O)(=O)C1=CN=C(S1)Cl | C7H11ClN2O3S2
product | 2-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C1=CN=C(S1)C#CC=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)C(F)(F)F | C25H22F3N5O3S2
